US07256186B2
(2R,5S)-Boc-5-phenyl-pyrrolidine-2-carboxylic acid (1.3 g, 4.5 mmol, obtained from SNPE North America LLC, 5 Vaughn Drive—Suite 111, Princeton, N.J. 08540, USA) was added to 10 mL of 4N HCl in dioxane and the mixture was stirred at room temperature for 2 hr. The mixture was concentrated under vacuum to give 1.0 g (100%) of (2R,5S)-5-phenyl-pyrrolidine-2-carboxylic acid HCl salt as a white solid. The solid was dissolved in 7 mL of anhydrous THF and the solution was added slowly into a stirred solution of 1 M LiAlH4 in THF (10.3 mL, 10.3 mmol, 3 eq) at room temperature. The mixture was then heated at reflux for 4 hr. After cooling to room temperature, the reaction mixture was treated sequentially with 0.42 mL of water, 0.85 mL of 1 N NaOH, and 1.26 mL of water. The mixture was stirred for 1 hr and the white precipitate was filtered off. The filtrate was dried (Na2SO4) and concentrated under vacuum to give 0.78 g (98%) of (2R,5S)-(5-phenyl-pyrrolidin-2-yl)-methanol as a yellow oil. 1H NMR (CDCl3, 300 MHz) δ7.60–7.30 (5H, m), 4.40 (1H, m), 3.78 (1H, m), 3.60 (2H, m), 2.60 (2H, br.s), 2.25 (1H, m), 2.10 (1H, m), 1.80 (2H, m).

reactant | (2R,5S)-Boc-5-phenyl-pyrrolidine-2-carboxylic acid | 4.5 mmol, 1.3 g | C(=O)(OC(C)(C)C)N1[C@H](CC[C@H]1C1=CC=CC=C1)C(=O)O | C16H21NO4
reactant | HCl | 4N, 10 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2R,5S)-5-phenyl-pyrrolidine-2-carboxylic acid HCl salt | 1.0 g, 100% | Cl.C1(=CC=CC=C1)[C@@H]1CC[C@@H](N1)C(=O)O | InChI=1S/C11H13NO2.ClH/c13-11(14)10-7-6-9(12-10)8-4-2-1-3-5-8;/h1-5,9-10,12H,6-7H2,(H,13,14);1H/t9-,10+;/m0./s1
